US04866065
a. Methyl 3-(N'-methylureido)thiophene-2-carboxylate
To a stirred solution of methyl-3-amino-thiophene-2-carboxylate (5 g, 31,8 mmole) and triethylamine (4,43 ml, 31,8 mmole) in dry tetrahydrofuran (100 ml) was added dropwise a 20% phosgene solution in toluene (31,8 mmole). After the addition had been completed the mixture was heated to reflux for 30 min, followed by filtration at room temperature. The filtrate was evaporated in vacuo, whereafter the crystalline residue was suspended in water (200 ml). Filtration of the suspension left the title compound as white crystals. M.p. 141°-142° C.

reactant | methyl-3-amino-thiophene-2-carboxylate | 31,8 mmole, 5 g | COC(=O)C=1SC=CC1N | C6H7NO2S
reactant | triethylamine | 31,8 mmole, 4,43 ml | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 31,8 mmole | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Methyl 3-(N'-methylureido)thiophene-2-carboxylate | CNC(NC1=C(SC=C1)C(=O)OC)=O | C8H10N2O3S
